US04369139
15.9 g. of p-benzyloxybenzoyl chloride, 500 ml. of absolute diethyl ether and 6.3 ml. of 2-pyrrolidinone are treated with 13.4 ml. of triethylamine at 0° C. to 10° C. while stirring. The mixture is stirred at reflux for 9 hours, then cooled down and treated at 0° C. with cold water and ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and evaporated. The residue is triturated with diethyl ether and the insoluble constituents are chromatographed over silica gel (particle size 0.2-0.5 mm). The constituents elutable with methylene chloride are triturated with diethyl ether. The insoluble constituents are filtered off and there is obtained 1-(p-benzyloxybenzoyl)-2-pyrrolidinone, having a melting point of 115°-117° C.

reactant | p-benzyloxybenzoyl chloride | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(p-benzyloxybenzoyl)-2-pyrrolidinone | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N2C(CCC2)=O)C=C1 | C18H17NO3
